US06770420B2
In a sulfonation flask, 37.6 g (0.26 mol) of 3,4-dimethylacetonitrile are reacted with 0.52 mol of gaseous methyl nitrite, as described under 3.1. After the customary isolation, 23.2 g (50%) of α-hydroxyimino-3,4-dimethylbenzylcyanide are obtained as a brown resin. This crude product is used in the next step without any further purification. The 1H-NMR spectrum is consistent with the proposed structure.

reactant | 3,4-dimethylacetonitrile | 0.26 mol, 37.6 g | CC1=C(C=C(C=C1)CC#N)C | C10H11N
reactant | methyl nitrite | 0.52 mol | N(=O)OC | CH3NO2
product | α-hydroxyimino-3,4-dimethylbenzylcyanide | 23.2 g, 50% | ON=C(C1=CC(=C(C=C1)C)C)C#N | C10H10N2O
